US08138193B2
Step 1: 5-bromo-N-cyclohexylimidazo[1,2-a]pyrazin-8-amine
(5,8-Dibromoimidazo[1,2-a]pyrazine, 200 mg, 0.72 mmol), cyclohexylamine (86 mg, 0.86 mmol) and di-isopropylethylamine (140 mg, 0.74 mmol) are suspended in iso-propanol (5 ml). The mixture is stirred at 90° C. for 18 h. The solvent is evaporated in vacuo and the residue dissolved in dichloromethane (5 mL). The organic layer is washed with saturated NaHCO3(aq) (10 ml), H2O (10 ml) and brine (10 mL). The organic layer is dried (MgSO4) and evaporated in vacuo. The oily residue is purified by column chromatography, eluting with 5:1 hexane:ethyl acetate to give a brown oil (147 mg, 69%). 1H-NMR (400 MHz, d6-DMSO) =1.22-1.29 (m, 1H), 1.32-1.49 (m, 4H), 1.64 (d, 1H, J=15.2 Hz), 1.77 (d, 2H, J=12.8 Hz), 1.92 (d, 2H, J=15.2 Hz), 3.97-4.01 (1H, m), 7.33 (d, 1H, J=8.4 Hz), 7.48 (s, 1H), 7.63 (s, 1H), 7.92 (s, 1H). LCMS: Rt 3.83 min (99.8%), m/z (APCI) 295 (M+H)+.

reactant | 5,8-Dibromoimidazo[1,2-a]pyrazine | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
reactant | cyclohexylamine | 0.86 mmol, 86 mg | C1(CCCCC1)N | C6H13N
reactant | di-isopropylethylamine | 0.74 mmol, 140 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | iso-propanol | 5 ml | C(C)(C)O | C3H8O
product | 5-bromo-N-cyclohexylimidazo[1,2-a]pyrazin-8-amine | 147 mg, 69% | BrC1=CN=C(C=2N1C=CN2)NC2CCCCC2 | C12H15BrN4
